US07456218B2
methyl 3-[4-[[2′,6′-dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy]phenyl]propanoate
To a solution of methyl 3-(4-hydroxyphenyl)propanoate (3.28 g, 18.2 mmol), [2′,6′-dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol (5.15 g, 16.5 mmol) and triphenylphosphine (5.63 g, 21.5 mmol) in tetrahydrofuran (100 mL) was added dropwise diethyl azodicarboxylate (40% toluene solution, 9.7 mL) at 0° C. with stirring, and the mixture was stirred at room temperature for 48 hrs. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give the title compound (2.92 g, yield 37%) as a yellow oil.

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 18.2 mmol, 3.28 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [2′,6′-dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methanol | 16.5 mmol, 5.15 g | CC1=C(C(=CC(=C1)OC1OCCCC1)C)C1=CC(=CC=C1)CO | C20H24O3
reactant | triphenylphosphine | 21.5 mmol, 5.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-[[2′,6′-dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy]phenyl]propanoate | 2.92 g, yield 37% | CC1=C(C(=CC(=C1)OC1OCCCC1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C30H34O5
